US07501412B2
After the completion of the reaction, the reaction solution was allowed to cool to room temperature, and the precipitated solid was removed by filtration. The filtrate was concentrated, and the residue was filtrated using silica gel (hexane:ethyl acetate=2:1). The filtrate was concentrated to give 1-bromomethyl-7-fluoro-5-methoxymethoxy-3-methyl-3H-pyrazolo[3,4-c]isoquinoline (0.50 g) as crude crystals. The crude crystals (0.50 g) of 1-bromomethyl-7-fluoro-5-methoxymethoxy-3-methyl-3H-pyrazolo[3,4-c]isoquinoline, piperidine (0.30 g) and potassium carbonate (0.39 g) were dissolved in acetonitrile (20 mL), and the reaction solution was stirred at room temperature for 2 days. After the completion of the reaction, the reaction solution was poured into water and extracted with chloroform. The organic layer was dried over magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel chromatography (hexane:ethyl acetate=10:1) to give 7-fluoro-3-methyl-1-(pyrrolidin-1-ylmethyl)-3H-pyrazolo[3,4-c]isoquinolin-5(4H)-one (0.079 g).

reactant | 1-bromomethyl-7-fluoro-5-methoxymethoxy-3-methyl-3H-pyrazolo[3,4-c]isoquinoline | BrCC1=NN(C=2N=C(C=3C=C(C=CC3C21)F)OCOC)C | C14H13BrFN3O2
reactant | piperidine | 0.30 g | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 0.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 7-fluoro-3-methyl-1-(pyrrolidin-1-ylmethyl)-3H-pyrazolo[3,4-c]isoquinolin-5(4H)-one | 0.079 g | FC=1C=CC=2C3=C(NC(C2C1)=O)N(N=C3CN3CCCC3)C | C16H17FN4O
